US09279082B2
6,8-Dibromo-3-(4-methoxy-phenyl)-chromen-2-one (30.8 g, 75.1 mmol), copper(1)iodide (1.50 g, 7.88 mmol) and bis(acetonitril)palladium(II) chloride (5.00 g, 7.12 mmol) are dissolved in 300 ml DMF and 50 ml diisopropylamin at 70° C., and a solution of butyne-1-ol (20.0 g, 285 mmol) in 50 ml DMF is added dropwise within 30 min. The reaction mixture is stirred overnight at 80° C., then poured onto 300 ml water and acidified with 2 N hydrochloric acid. The precipitated product is filtered by vacuum, then filtered through silica gel with THF/toluene (4:1) and addition of a small amount of ethanol, and the crude product is recrystallized from toluene. 6,8-Bis-(4-hydroxy-but-1-ynyl)-3-(4-methoxy-phenyl)-chromen-2-one is obtained as light brown solid, which is pure enough to be used as starting material for the next step.

reactant | 6,8-Dibromo-3-(4-methoxy-phenyl)-chromen-2-one | 75.1 mmol, 30.8 g | BrC=1C=C2C=C(C(OC2=C(C1)Br)=O)C1=CC=C(C=C1)OC | C16H10Br2O3
reactant | diisopropylamin | 50 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyne-1-ol | 285 mmol, 20.0 g | C(#CCC)O | C4H6O
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | copper(1)iodide | 7.88 mmol, 1.50 g | [Cu]I
catalyst | bis(acetonitril)palladium(II) chloride | 7.12 mmol, 5.00 g | CC#N.CC#N.Cl[Pd]Cl
solvent | water | 300 ml | O | H2O
product | 6,8-Bis-(4-hydroxy-but-1-ynyl)-3-(4-methoxy-phenyl)-chromen-2-one | OCCC#CC=1C=C2C=C(C(OC2=C(C1)C#CCCO)=O)C1=CC=C(C=C1)OC | C24H20O5
